US05604237
1,2,3,4-Tetrahydro-6-methoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline
A mixture of 1-(2-bromoethyl)-4-nitrobenzene (6.4 g), 1,2,3,4-tetrahydro-6-methoxyisoquinoline (4.6 g; Daniel J. Sall and Gary L. Grunewald, J. Med. Chem. 1987, 30, 2208-2216) and potassium carbonate (9.7 g) in DMF (150 ml) was stirred at 50° for 15 h. The mixture was evaporated to dryness and the residue was extracted with dichloromethane. The organic layer was washed with water, dried, filtered and evaporated. The residue was then purified by column chromatography eluting with dichloromethane/methanol (98:2) to give the title compound (2 g) as an oil which solidified on standing.

reactant | 1-(2-bromoethyl)-4-nitrobenzene | 6.4 g | BrCCC1=CC=C(C=C1)[N+](=O)[O-] | C8H8BrNO2
reactant | 1,2,3,4-tetrahydro-6-methoxyisoquinoline | 4.6 g | COC=1C=C2CCNCC2=CC1 | C10H13NO
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-6-methoxy-2-[2-(4-nitrophenyl)ethyl]isoquinoline | 2 g | COC=1C=C2CCN(CC2=CC1)CCC1=CC=C(C=C1)[N+](=O)[O-] | C18H20N2O3
